US05767293
To a solution of 6-cyclohexylcarbamoyloxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane (70 mg) in a mixture of methanol (0.1 ml) and dichloromethane (5 ml) was passed through ozone for 13 minutes at -78° C. to give 6-cyclohexylcarbamoyloxy-5-methoxy-4-[2-methyl-3-formylmethyloxiranyl)-1-oxaspiro-[2,5]octane in the reacting mixture. After babbling of nitrogen, methyl sulfide (0.2 ml) was added to the mixture at the same temperature. The mixture was stirred at -78° C. for 15 minutes and allowed to warm to 0° C. followed by the addition of carboethoxymethylene-triphenylphosphorane (150 mg). The mixture was stirred at ambient temperature for 18 hours and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluted with a mixture of diethyl ether and n-hexane (1:1) to yield 6-cyclohexylcarbamoyloxy-4-[3-(3-ethoxycarbonyl-2-propenyl)-2-methyloxiranyl]-5-methoxy-1-oxaspiro[2,5]-octane (53 mg) as an oil.

reactant | 6-cyclohexylcarbamoyloxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane | 70 mg | C1(CCCCC1)NC(=O)OC1C(C(C2(CO2)CC1)C1(OC1CC=C(C)C)C)OC | C23H37NO5
reactant | ozone | O=[O+][O-] | O3
solvent | methanol | 0.1 ml | CO | CH4O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 6-cyclohexylcarbamoyloxy-5-methoxy-4-[2-methyl-3-formylmethyloxiranyl)-1-oxaspiro-[2,5]octane | C1(CCCCC1)NC(=O)OC1C(C(C2(CO2)CC1)C1(OC1CC=O)C)OC | C20H31NO6
